US05256679
To a solution of N-(2-chloro-5-thiazolylmethyl)-S-methyl-N'-nitro-N-propionylisothiourea (310 mg) in toluene (5 ml) was added 40% methylamine-methanol solution (75 mg) below -10° C. and the mixture was stirred at the same temperature for 3 hours. After addition of 2N hydrochloric acid (5 ml) under ice-cooling, the mixture was extracted with AcOEt (10 ml). The organic layer was washed with an aqueous saturated sodium bicarbonate solution, dried over MgSO4 and concentrated in vacuo. The resulting residue was applied to column chromatography on silica gel. The column was eluted with AcOEt. The fractions containing the desired compound were concentrated and the residue was dissolved in toluene. Crystallization by addition of n-hexane gave 120 mg of 1-(2-chloro-5-thiazolylmethyl)-3-methyl-2-nitro-1-propionylguanidine (Compound No. 32) as a white crystal, m.p. 89°-90° C.

reactant | N-(2-chloro-5-thiazolylmethyl)-S-methyl-N'-nitro-N-propionylisothiourea | 310 mg | ClC=1SC(=CN1)CN(C(SC)=N[N+](=O)[O-])C(CC)=O | C9H11ClN4O3S2
reactant | methylamine methanol | 75 mg | CN.CO
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-5-thiazolylmethyl)-3-methyl-2-nitro-1-propionylguanidine | 120 mg | ClC=1SC(=CN1)CN(C(=N[N+](=O)[O-])NC)C(CC)=O | C9H12ClN5O3S
